US06783557B1
c) Preparation of (3-imidazol-1-ylpropyl)(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-yl)amine
2.88 g of 3-imidazol-1-ylpropylamine and 2.33 g of triethylamine in 20 cc of dioxane were introduced into a 100 cc three-necked round-bottomed flask equipped with a magnetic stirrer, a thermometer, a dropping funnel and a condenser. 4.5 g of 7-chloro-5-methyl-3-nitropyrazolo[1,5-a]pyrimidine in solution in 20 cc of dioxane and 5 cc of dimethylformamide were added dropwise. After 2 hours of stirring at room temperature, the precipitate was filtered off. It was washed with diisopropyl ether and dried under vacuum. This gave 7.2 g of crude product. This product was taken up under reflux in 28 cc of water, then filtered off at room temperature. This operation was repeated a second time. The product was washed with ethanol and with diisopropyl ether. This gave 4.1 g of (3-imidazol-1-ylpropyl)(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-yl)amine in the form of a beige powder, after drying under vacuum over phosphoric anhydride, with a yield of 65%.

reactant | 3-imidazol-1-ylpropylamine | 2.88 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | triethylamine | 2.33 g | C(C)N(CC)CC | C6H15N
reactant | 7-chloro-5-methyl-3-nitropyrazolo[1,5-a]pyrimidine | 4.5 g | ClC1=CC(=NC=2N1N=CC2[N+](=O)[O-])C | C7H5ClN4O2
reactant | dimethylformamide | 5 cc | CN(C=O)C | C3H7NO
solvent | dioxane | 20 cc | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 cc | O1CCOCC1 | C4H8O2
product | (3-imidazol-1-ylpropyl)(5-methyl-3-nitropyrazolo[1,5-a]pyrimidin-7-yl)amine | yield of 65% | N1(C=NC=C1)CCCNC1=CC(=NC=2N1N=CC2[N+](=O)[O-])C | C13H15N7O2
